US04086417
20 ml of water was added to 4.0 g of cytidine-5'-pyrophosphate disodium salt and, after further adding 300 ml of dioxane and 13.6 g of stearic anhydride to the mixture, the mixture was heated to 80° C to effect reaction. After cooling the reaction mixture to 5° C, 1 liter of water was added to the reaction mixture, the mixture was concentrated to almost dryness, and 100 ml of ethanol was added to the concentrate to form a precipitate. The precipitate formed was collected by centrifugal separation, suspended in 50 ml of water, and the suspension stirred for 60 minutes. Then, 50 ml of ethanol was added to the suspension and the precipitate thus formed recovered by filtration and washed with ethanol, n-hexane, and then benzene, in this order. The precipitate was dried in a desiccator and recrystallized from water-ethanol (1:1 molar ratio) to provide 1.8 g of powdered N4 -stearoylcytidine-5'-pyrophosphate disodium salt. Ultraviolet absorption spectra (water): 248 and 299 mμ.

reactant | cytidine-5'-pyrophosphate disodium salt | 4.0 g | [Na+].[Na+].P([O-])(=O)(OP(=O)([O-])O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(N)C=C1)O)O
reactant | dioxane | 300 ml | O1CCOCC1 | C4H8O2
reactant | stearic anhydride | 13.6 g | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
solvent | water | 1 liter | O | H2O
solvent | water | 20 ml | O | H2O
product | N4 -stearoylcytidine-5'-pyrophosphate disodium salt | 1.8 g | [Na+].[Na+].P([O-])(=O)(OP(=O)([O-])O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCCC)=O)C=C1)O)O | InChI=1S/C27H49N3O12P2.2Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-23(31)28-22-18-19-30(27(34)29-22)26-25(33)24(32)21(41-26)20-40-44(38,39)42-43(35,36)37;;/h18-19,21,24-26,32-33H,2-17,20H2,1H3,(H,38,39)(H2,35,36,37)(H,28,29,31,34);;/q;2*+1/p-2/t21-,24-,25-,26-;;/m1../s1
